2192-11-16 07:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: HIV disease, Sepsis, Still
s disease
   24 Hour Events:
   > persistently hypotensive but responding to IVF
   Appreciate ENT input from Dr [**First Name (STitle) 3361**]/ Dr [**First Name (STitle) 861**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-11-15**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-16**] 12:00 AM
   Metronidazole - [**2192-11-16**] 01:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-15**] 09:56 AM
   Heparin Sodium (Prophylaxis) - [**2192-11-15**] 09:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 93 (86 - 122) bpm
   BP: 95/55(65) {82/44(53) - 152/131(135)} mmHg
   RR: 33 (21 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,887 mL
                                                                  1,970 mL
   PO:
                                                                    400 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  4,487 mL
                                                                  1,820 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                    760 mL
   Urine:
                                                                  1,240 mL
                                                                    660 mL
   NG:
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                  2,147 mL
                                                                  1,210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 98%
   ABG: 7.43/29/110/18/-3
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: No(t) PERRL, injected sclerae
   Lymphatic: Cervical adenopathy unchanged from yesterday. No obvious
   erythema along the gum line.
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   6.6 g/dL
   318 K/uL
   133 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.6 mEq/L
   4 mg/dL
   109 mEq/L
   134 mEq/L
   20.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2192-11-15**]  04:19 PM
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
   WBC
   13.9
   10.4
   11.4
   Hct
   22.5
   21.7
   20.9
   Plt
   298
   310
   318
   Cr
   0.6
   0.6
   TCO2
   20
   Glucose
   187
   133
   Other labs: PT / PTT / INR:18.3/41.0/1.7, ALT / AST:25/41, Alk Phos / T
   Bili:154/0.3, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:0.9 %,
   Eos:1.3 %, Fibrinogen:459 mg/dL, Lactic Acid:1.2 mmol/L, LDH:342 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   PCP induced [**Name9 (PRE) 3352**] [**11-15**]: neg
   CT chest abd [**11-15**]:
   1. No evidence of pneumonia. Tiny atelectasis at the lung base
   bilaterally.
   2. Stable lymphadenopathy.
   3. Stable fibroid.
   Assessment and Plan
   48 year old HIV
infected female with recent CD4 count of 166 cells/mm3
   ([**2192-8-10**]) on HAART, h/o thyroid disease; h/o adult Stills disease on
   methotrexate maintenance with steroid taper (on Bactrim prophylaxis);
   is admitted with one week h/o fatigue, malaise; cough non productive;
   NV; LT neck swelling.
   >Fever/Hypotension: unclear source to fevers and hypotension although
   oodotogenic infection in a immunocompromised host on MTX/ Steroids
   looms at the leading cause. she has some reactive lymphadenopathy on
   the right side of the jaw. Could be consistent with dental
   carry/abscess with local drainage to affected nodes which we are
   covering with broad spectrum Abx.   There is also a possibility that
   this could represent re-crudescence of her Still's disease (increasing
   ferritin) Lymphoma with rising LDH also a concern. CT scan of the chest
   is not at all consistent with PCP. [**Name10 (NameIs) **] diarrhea conts and we are
   empirically treating c. dif (awaiting clx data, she has a hx of c. dif)
   - F/u Induced sputum, GM and 1,3 glucan
   - F/u c. dif, empiric clx for now.
   - Oral surgery consult given concerns regarding infected molar tooth
   and resultant sepsis
   - ID following (appreciate input): bartonella
   - Follow up blood and urine clx
   - cont empiric Abx
   - Stress dose steroids (indication: prev use of steroids and HIV)
   - MAP goal > 60 mmHg (fluid bolus with PR as needed, baseline BP is
   100/60mmHg)
   > Coagulopathy: unclear reason to explain aPTT and INR increases
   - peripheral smear
   - Vit K x 3 days
   HIV: cont HAART, now with CD4 of 451.
   - F/u viral load
   - Restart PCP prophylaxis based on CT chest
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-11-15**] 08:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  updated patient and family regarding plan
   Code status: Full code
   Disposition :ICU today although could potentially leave ICU after blood
   transfusion if BP/ HR stable
   Total time spent: 35 minutes

2192-11-16 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hypotensive persistently to 80s, got 2 L NS bolus, 1 L LR bolus
   - High diarrheal output, start metronidazole, c.diff pending.
   - ID recs: in addition sending more blood cx, mycolytics, toxo titers,
   bartonella titers.
   - Rheum consult: ferritin 14K, holding methotrexate.
   - ENT consult: tooth infection, cover for anaerobes, do not recommend
   FNA of LN
   - Culture data:
       * c.diff pending
       * cryptococcal Ag negative
       * urine pending
       * CMV pending
       * induced sputum for PCP [**Name Initial (PRE) 420**]
       * Beta glucan, galactomannan pending
   - CT torso: clear lungs, no pathologically enlarged mediastinal LNs.
   Bilat axillary LNs. Hepatomegaly. Stable retroperitoneal
   lymphadenopathy.
   - WBCs up, Hct down, coags slightly up, platelets stable.  F'gen okay,
   FDP, hapto, smear pending.
   - Sending flu
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-11-15**] 08:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-16**] 12:00 AM
   Metronidazole - [**2192-11-16**] 01:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-15**] 09:56 AM
   Heparin Sodium (Prophylaxis) - [**2192-11-15**] 09:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-16**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 93 (86 - 122) bpm
   BP: 95/55(65) {82/44(53) - 152/131(135)} mmHg
   RR: 33 (21 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,887 mL
                                                                  1,972 mL
   PO:
                                                                    400 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  4,487 mL
                                                                  1,822 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                    760 mL
   Urine:
                                                                  1,240 mL
                                                                    660 mL
   NG:
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                  2,147 mL
                                                                  1,212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/29/110/18/-3
   Physical Examination
   NAD, A/Ox3, periorbital erythema with swelling, L inferior mandibular
   tooth pain without e/o overt abscess, continued L submandibular and
   submental lad.  No murmurs, no spliter hemorrhages, continued mild
   crackles at L base.  Abd exam unremarkable, no tenderness.  No lower
   extremity edema.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   318 K/uL
   6.6 g/dL
   133 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.6 mEq/L
   4 mg/dL
   109 mEq/L
   134 mEq/L
   20.9 %
   11.4 K/uL
        [image002.jpg]
   Cultures (-), cdiff x1 (-)
                             [**2192-11-15**]  04:19 PM
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
   WBC
   13.9
   10.4
   11.4
   Hct
   22.5
   21.7
   20.9
   Plt
   298
   310
   318
   Cr
   0.6
   0.6
   TCO2
   20
   Glucose
   187
   133
   Other labs: PT / PTT / INR:18.3/41.0/1.7, ALT / AST:25/41, Alk Phos / T
   Bili:154/0.3, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:0.9 %,
   Eos:1.3 %, Fibrinogen:459 mg/dL, Lactic Acid:1.2 mmol/L, LDH:342 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   CT showing hepatomegaly, RP lad, submandibular lad
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, admitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source, likely lung
   infection vs. abdominal process.
   .
   #  fever/hypotension: no identifiable source currently to fevers.  Pt
   has signficant submandibular/R-jaw LAD, increasing hypoxia, and
   ?duration of diarrhea with transaminitis.  Hx of steroid/mtx use >1yr,
   in addition to HIV status, at risk for PCP pna, with clinical hx of
   cough and sob (reports compliance with 3x/wk bactrim).  Prior imaging
   showed e/o of L upper lobe infiltrate vs fluid, which has since
   resolved.   Concern for tooth abscess, although systemic findings would
   be hard to reconcile this source as lone cause.  Lemierr'e disease also
   possible given jaw, periodontal pain, now with developing upper lobe
   infitrate.  Other possiblities include rheumatologic process with hx of
   Stills' disease, thyroid abnormality.  AIDS-defining lymphoma
   possibility with e/o of submandibular mass vs. LAD.
   - MAP >60 mmHg, IVF prn, recheck lactate
   - blood, urine, cdiff, sputum cxs f/u
   - cryptococcus/cmv/hiv vl pending, induced sputum, glucan pending
   - vanco/zosyn for broad coverage
   - bactrim prophylaxis dose
   - iv hydrocort 50mg q6, started [**11-15**], plan to stop [**11-17**], restarted
   prednisone 10mg qd [**11-17**] (pending continued stable clinical course)
   - ortho surgery consult today to comment on tooth abscess
   - ultimately, would desire lymph node biopsy for diagnosis: lymphoma,
   granulomatous disease, infection
   - ID/rheum consults
   - fluconazole for thrush
   .
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia, now
   with 3 pt drop in hct, unknown source, no e/o of bleeding.  Consider
   other causes, developing TTP, HUS.  Baseline coagulopathy vs. less
   likely, DIC, as labs do not support latter with elevated fibrinogen.
   Overall, anemia likely due to infection and chronic baseline.
   - t/s
   - follow hct, coags
   - f/u smear
   .
   # HIV: as above, continue HAART
   - cont HAART
   - f/u CD4 count, viral load
   .
   # transaminitis: mild elevation, with AP elevation, nl TB.  Can be
   secondary to mtx, but ast/alt predominance may suggest either
   alternative source (muscle necrosis - not likely, thyroid disease - hx
   of grave's with RAI, adrenal insufficiency - no eos, celiac dz).
   Concern would be for liver abscess, but without marked leukocytosis,
   less likely.  Has been exposed to hepatitis B according to serologies.
   - trend LFTs
   .
   # Still's Diease: Pt with continued joint pain and contituitional
   symptoms. Pt has been treated with prednisone 10mg and methotrexate for
   therapy. If pt symptoms worsens t/c C-spine MRI to evaluate for other
   etiology (ie malignancy). ?Incidence of Still's Disease in HIV
   patients.
   - holding mtx, predisone po (on iv hydrocort)
   - rheum consult
   .
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   .
   # fEN: NPO for induced sputum, replete lytes
   # Access: 2pIV
   # PPx: heparin SC, ppi
   # Code: FULL
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-11-15**] 08:46 AM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu today, possible transfer [**11-17**]

2192-11-17 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PCP negative
   [**Name Initial (PRE) **] transfused 1 unit of PRBCs
   Oral surgery: will extract tooth on monday morning (needs to be NPO,
   hold HSQ)
   Rheum: Possible stills flare.
   Recommendations:
   - monitor CBC to evaluate for hemophagocytic syndrome (consult heme if
   2 cell lines trend down).
   - daily LFTs
   - check triglycerides.
   - repeat ferritin over the weekend to evaluate for treatment response
   - Prednisone 60 mg daily when off stress dose steroids
   - Consider LN biopsy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-11-16**] 08:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-16**] 04:00 PM
   Piperacillin - [**2192-11-17**] 12:00 AM
   Metronidazole - [**2192-11-17**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-17**] 02:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-17**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 86 (70 - 109) bpm
   BP: 112/62(73) {89/46(59) - 114/67(77)} mmHg
   RR: 28 (23 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,216 mL
                                                                    579 mL
   PO:
                                                                    550 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  2,379 mL
                                                                    279 mL
   Blood products:
                                                                    287 mL
   Total out:
                                                                  1,995 mL
                                                                  1,430 mL
   Urine:
                                                                  1,895 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,221 mL
                                                                   -851 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   318 K/uL
   6.6 g/dL
   133 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.6 mEq/L
   4 mg/dL
   109 mEq/L
   134 mEq/L
   20.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2192-11-15**]  04:19 PM
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
   WBC
   13.9
   10.4
   11.4
   Hct
   22.5
   21.7
   20.9
   Plt
   298
   310
   318
   Cr
   0.6
   0.6
   TCO2
   20
   Glucose
   187
   133
   Other labs: PT / PTT / INR:18.3/41.0/1.7, ALT / AST:25/41, Alk Phos / T
   Bili:154/0.3, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:0.9 %,
   Eos:1.3 %, Fibrinogen:459 mg/dL, Lactic Acid:1.2 mmol/L, LDH:342 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, admitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source, likely lung
   infection vs. abdominal process.
   .
   #  fever/hypotension: no identifiable source currently to fevers.  Pt
   has signficant submandibular/R-jaw LAD, increasing hypoxia, and
   ?duration of diarrhea with transaminitis.  Hx of steroid/mtx use >1yr,
   in addition to HIV status, at risk for PCP pna, with clinical hx of
   cough and sob (reports compliance with 3x/wk bactrim).  Prior imaging
   showed e/o of L upper lobe infiltrate vs fluid, which has since
   resolved.   Concern for tooth abscess, although systemic findings would
   be hard to reconcile this source as lone cause.  Lemierr'e disease also
   possible given jaw, periodontal pain, now with developing upper lobe
   infitrate.  Other possiblities include rheumatologic process with hx of
   Stills' disease, thyroid abnormality.  AIDS-defining lymphoma
   possibility with e/o of submandibular mass vs. LAD.
   - MAP >60 mmHg, IVF prn, recheck lactate
   - blood, urine, cdiff, sputum cxs f/u
   - cryptococcus/cmv/hiv vl pending, induced sputum, glucan pending
   - vanco/zosyn for broad coverage
   - bactrim prophylaxis dose
   - iv hydrocort 50mg q6, started [**11-15**], plan to stop [**11-17**], restarted
   prednisone 10mg qd [**11-17**] (pending continued stable clinical course)
   - ortho surgery consult today to comment on tooth abscess
   - ultimately, would desire lymph node biopsy for diagnosis: lymphoma,
   granulomatous disease, infection
   - ID/rheum consults
   - fluconazole for thrush
   .
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia, now
   with 3 pt drop in hct, unknown source, no e/o of bleeding.  Consider
   other causes, developing TTP, HUS.  Baseline coagulopathy vs. less
   likely, DIC, as labs do not support latter with elevated fibrinogen.
   Overall, anemia likely due to infection and chronic baseline.
   - t/s
   - follow hct, coags
   - f/u smear
   .
   # HIV: as above, continue HAART
   - cont HAART
   - f/u CD4 count, viral load
   .
   # transaminitis: mild elevation, with AP elevation, nl TB.  Can be
   secondary to mtx, but ast/alt predominance may suggest either
   alternative source (muscle necrosis - not likely, thyroid disease - hx
   of grave's with RAI, adrenal insufficiency - no eos, celiac dz).
   Concern would be for liver abscess, but without marked leukocytosis,
   less likely.  Has been exposed to hepatitis B according to serologies.
   - trend LFTs
   .
   # Still's Diease: Pt with continued joint pain and contituitional
   symptoms. Pt has been treated with prednisone 10mg and methotrexate for
   therapy. If pt symptoms worsens t/c C-spine MRI to evaluate for other
   etiology (ie malignancy). ?Incidence of Still's Disease in HIV
   patients.
   - holding mtx, predisone po (on iv hydrocort)
   - rheum consult
   .
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   .
   # fEN: NPO for induced sputum, replete lytes
   # Access: 2pIV
   # PPx: heparin SC, ppi
   # Code: FULL
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-11-15**] 08:46 AM
   22 Gauge - [**2192-11-16**] 08:39 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-11-17 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2192-11-16**] 08:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-16**] 04:00 PM
   Piperacillin - [**2192-11-17**] 12:00 AM
   Metronidazole - [**2192-11-17**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-17**] 02:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-17**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 86 (70 - 109) bpm
   BP: 112/62(73) {90/46(59) - 114/67(77)} mmHg
   RR: 28 (23 - 37) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,216 mL
                                                                    580 mL
   PO:
                                                                    550 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  2,379 mL
                                                                    280 mL
   Blood products:
                                                                    287 mL
   Total out:
                                                                  1,995 mL
                                                                  1,430 mL
   Urine:
                                                                  1,895 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,221 mL
                                                                   -850 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: diminished pre-orbital edema. Decreased
   cervical adenopathy from [**11-16**].
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   6.6 g/dL
   318 K/uL
   133 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.6 mEq/L
   4 mg/dL
   109 mEq/L
   134 mEq/L
   20.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2192-11-15**]  04:19 PM
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
   WBC
   13.9
   10.4
   11.4
   Hct
   22.5
   21.7
   20.9
   Plt
   298
   310
   318
   Cr
   0.6
   0.6
   TCO2
   20
   Glucose
   187
   133
   Other labs: PT / PTT / INR:18.3/41.0/1.7, ALT / AST:25/41, Alk Phos / T
   Bili:154/0.3, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:0.9 %,
   Eos:1.3 %, Fibrinogen:459 mg/dL, Lactic Acid:1.2 mmol/L, LDH:342 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   48 year old HIV
infected female with recent CD4 count of 166 cells/mm3
   ([**2192-8-10**]) on HAART, h/o thyroid disease; h/o adult Stills disease on
   methotrexate maintenance with steroid taper (on Bactrim prophylaxis);
   is admitted with one week h/o fatigue, malaise; cough non productive;
   NV; LT neck swelling.  It is unclear what precipitated her
   decompensation: ondotgenic infection vs worsening Still
s disease or
   another process.
   >Fever/Hypotension: unclear source to fevers and hypotension although
   oodotogenic infection in a immunocompromised host on MTX/ Steroids
   looms at the leading cause. she has some reactive lymphadenopathy on
   the right side of the jaw. Could be consistent with dental
   carry/abscess with local drainage to affected nodes which we are
   covering with broad spectrum Abx.   There is also a possibility that
   this could represent re-crudescence of her Still's disease (increasing
   ferritin) Lymphoma with rising LDH also a concern. CT scan of the chest
   is not at all consistent with PCP (neg induced sputum). Her diarrhea
   conts and we are empirically treating c. dif (awaiting 3 neg , she has
   a hx of c. dif). With regards to her WBC it has decreased which is
   potentially concerning for hemophagocytic syndrome in the setting of
   Stills disease.
   - Discuss with Rheumatology re: hemophagocytic syndrome given
   decreasing WBC (check triglyercides)
   - F/u GM and 1,3 glucan
   - Awaitin c. dif cx neg x 3, empiric treatment until then.
   - Oral surgery for tooth extraction on [**11-19**]
   - ID following (appreciate input): bartonella assay
   - Follow up blood and urine clx (all results neg to date)
   - Cont empiric Abx
   - Decrease to prednisone 60 mg daily.
   - MAP goal > 60 mmHg (fluid bolus with PR as needed, baseline BP is
   90-100/60mmHg)
   > Coagulopathy: unclear reason to explain aPTT and INR increases
   - peripheral smear
   - Vit K x 3 days
   > HIV: cont HAART, now with CD4 of 451.
   - F/u viral load
   - Restart PCP prophylaxis based on CT chest
   ICU Care
   Nutrition:
   Comments: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-11-15**] 08:46 AM
   22 Gauge - [**2192-11-16**] 08:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2192-11-18 08:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 103.0
F - [**2192-11-17**]
   > Marked Diarrhea
   > Hypotension and tachcardia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-16**] 04:00 PM
   Vancomycin - [**2192-11-17**] 08:00 AM
   Metronidazole - [**2192-11-17**] 10:00 AM
   Piperacillin - [**2192-11-17**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-17**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-18**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.5
C (101.3
   HR: 107 (66 - 107) bpm
   BP: 92/47(55) {92/47(55) - 127/70(84)} mmHg
   RR: 27 (20 - 38) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  1,876 mL
                                                                    500 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                    976 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                      0 mL
   Urine:
                                                                  2,970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,095 mL
                                                                    500 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Sclera edema, pre-orb edema
   Head, Ears, Nose, Throat: Poor dentition
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : 1/2 up bilateral)
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, no joint tenderness
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.5 g/dL
   320 K/uL
   132 mg/dL
   0.6 mg/dL
   22 mEq/L
   2.8 mEq/L
   5 mg/dL
   108 mEq/L
   139 mEq/L
   26.4 %
   5.2 K/uL
        [image002.jpg]
                             [**2192-11-15**]  04:19 PM
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
                             [**2192-11-17**]  05:55 AM
                             [**2192-11-17**]  08:00 AM
   WBC
   13.9
   10.4
   11.4
   5.2
   Hct
   22.5
   21.7
   20.9
   26.4
   Plt
   298
   310
   318
   320
   Cr
   0.6
   0.6
   0.6
   TCO2
   20
   Glucose
   187
   133
   132
   Other labs: PT / PTT / INR:18.3/41.0/1.7, ALT / AST:21/38, Alk Phos / T
   Bili:148/0.3, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:0.9 %,
   Eos:1.3 %, Fibrinogen:459 mg/dL, Lactic Acid:3.2 mmol/L, Albumin:2.4
   g/dL, LDH:357 IU/L, Ca++:8.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.1 mg/dL
   Blood clxs have been negative.
   C. dif x 3 neg
   Assessment and Plan
   48 year old HIV
infected female with recent CD4 count of 166 cells/mm3
   ([**2192-8-10**]) on HAART, h/o thyroid disease; h/o adult Stills disease on
   methotrexate maintenance with steroid taper (on Bactrim prophylaxis);
   is admitted with one week h/o fatigue, malaise; cough non productive;
   NV; LT neck swelling.  She has been recurrently hypotensive and febrile
   without clear source. She conts to have marked diarrhea despite
   negative c.dif.
    >Fever/Hypotension: unclear source to fevers and hypotension although
   oodotogenic infection in a immunocompromised host on MTX/ Steroids
   looms at the leading cause. she has some reactive lymphadenopathy on
   the right side of the jaw. Could be consistent with dental
   carry/abscess with local drainage to affected nodes which we are
   covering with broad spectrum Abx.   There is also a possibility that
   this could represent re-crudescence of her Still's disease (increasing
   ferritin) Lymphoma with rising LDH also a concern. CT scan of the chest
   is not at all consistent with PCP (neg induced sputum). Her diarrhea
   conts and we are empirically treating c. dif (awaiting 3 neg , she has
   a hx of c. dif).  On transfer she was changed from Pip-tazo to flagyl
   and Unasyn. We will restart the Pip-tazo and empirically cover c. dif.
   With flagyl.
   - Will need to re-image the abdomen to search for source of abdominal
   infection (given notable
   - Will cont to discuss with Rheumatology (her wbc has increased again)
   - F/u GM and 1,3 glucan
   - Awaitin c. dif cx neg x 3, empiric treatment until then.
   - Oral surgery for tooth extraction on [**11-19**] (will need to defer
   pending hemodynamic stability)
   - ID following (appreciate input):
   - Follow up blood and urine clx (all results neg to date). Check stool
   clx and O+P, cryptosporidium.
   - Re-check LFTs and lactate.
   - Increase to stress dose steroids
   - Re-image head CT (notably toxo and crypto neg), Chest CT (PE
   protocol) and Abd/pel CT
   - MAP goal > 60 mmHg (fluid bolus with PR as needed, baseline BP is
   90-100/60mmHg)
   - Ehrlicia and thin-thick smear.
   - TTE: persistently febrile, no clear embolic manifestations
   > Hypoxemia: relatively clear CXR and resp alkaosis on ABG. We are
   concerned  for PE and will obtain PE protocol CT scan
   - her coags (both apt and INR are up): ? antii-phospholipid Ab
   syndrome.
   > Coagulopathy: unclear reason to explain aPTT and INR increases. Will
   check aPL work up.
   - peripheral smear
   - Vit K x 3 days
   Metabolic acidosos: elevated lactate but also concern for loss of HCO3
   in the stool from diarrhea. Will check urine lytes (for urine anion
   gap) and profound hypokalemia.
   - IV hydration
   > HIV: cont HAART, now with CD4 of 451.
   - F/u viral load
   - Restart PCP prophylaxis based on CT chest
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-11-18 12:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   48yoF from [**Country 3310**] HIV - undetectable vl, CD166, hypothyroid, Stills
   Disease mtx and prednisone taper presented with fever, admitted to
   Medicine floor, now transferred to MICU for hypotension and
   tachycardia.
      Pt was in [**Hospital **] clinic [**11-15**], reported fatigue, malaise for past month,
   with low grade fevers, mostly at night with occasional night sweats.
   Five days PTA, developed semi-productive cough, also a tender
   "swelling" under her chin. Was febrile and tachycardic in clinic, no O2
   requirement, admitted directly to CC7.
   Pt diagnosed with HIV [**2174**] after fiance +, no treatment. In [**2187**],
   started on study protocol (Gilead 934 study: Tefavirenz, emtriva,
   tenofovir disoproxil fumarate), treated since at [**Hospital1 19**], +compliance.
   MAC prophylaxis [**12/2187**] (azithromycin), then stopped [**12-13**]. Had
   admission [**Date range (3) 3313**] for hyperthyroidism with subsequent iodine
   ablation. Tested PPD+ [**11/2189**], underwent 9 months of INH treatment.
      She was admitted to the floor but triggered for hypotension and was
   transferred to the MICU for resuscitation. She was empirically covered
   with broad spectrum abx. She received stress dose steroids of HC 50 q6
   but then switched to prednisone 60 mg daily. The leading source to the
   fever has been dental abscess with reaction submental lymphnodes.
   Additional source to infection has been attributed to Still's disease
   given her markedly elevated ferritin. She never required vasopressors
   for hemodynamic support. She is scheduled for tooth extraction on
   Monday. She was intermittently tachypneic but had no chest pain,
   subjective shortness of breath or detectable hypoxia. Micro data has
   remained negative to date. Upon arrival to the floor she was febrile to
   103 and triggerred for RR 40 without subjective shortness of breath.
   She received a total of 3.5l IVF for borderline low SBPs (80s), then
   had a SBP to 65, which prompted a trigger.  ABG was drawn, which showed
   lactate >3, prompting MICU transfer.
   ROS:
   + urinary incontinence, + joint pain, reports continued immobility and
   pain in her lower ext.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-16**] 04:00 PM
   Metronidazole - [**2192-11-17**] 10:00 AM
   Piperacillin - [**2192-11-17**] 04:00 PM
   Vancomycin - [**2192-11-18**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-18**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-18**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.4
C (101.2
   HR: 120 (66 - 138) bpm
   BP: 100/49(59) {92/47(55) - 127/70(84)} mmHg
   RR: 31 (27 - 43) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 6 (5 - 6)mmHg
   Total In:
                                                                  1,876 mL
                                                                  1,217 mL
   PO:
                                                                    900 mL
   TF:
   IVF:
                                                                    976 mL
                                                                  1,097 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    600 mL
   Urine:
                                                                  2,970 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,095 mL
                                                                    617 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   Vitals: T:101.8 BP: 90/60 HR:11 RR: 26 98%3L
   GEN: fatigued, a/o x3
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis or rhinorrhea, MMM,
   thrush on tongue, +bil conjunctival injection
   NECK: sub-mental mass, tender, ~5cm, no cervical lymphadenopathy,
   pre-auricular, post-auricular lad
   COR: RRR, no M/G/R, normal S1 S2, radial pulses +2
   PULM: lungs with cracles at L apex, no wheeze, rhonchi, poor
   inspiratory effort, +egophany and L upper field with E-->A
   ABD: Soft, NT, ND, +BS, no HSM, no masses, (-) [**Doctor Last Name 3315**] sign, could not
   percuss and palpate liver edge
   EXT: No C/C/E, no palpable cords
   Pain with active motion of the b/l knee (R>L)
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities. Strength 5/5 in upper and lower, but
   patient could not move knees [**2-11**] pain. Patellar DTR +2. Plantar reflex
   downgoing.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   213 K/uL
   7.9 g/dL
   101 mg/dL
   0.8 mg/dL
   16 mEq/L
   2.0 mEq/L
   7 mg/dL
   110 mEq/L
   141 mEq/L
   23.7 %
   12.3 K/uL
        [image002.jpg]
                             [**2192-11-15**]  04:19 PM
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
                             [**2192-11-17**]  05:55 AM
                             [**2192-11-17**]  08:00 AM
                             [**2192-11-18**]  07:40 AM
   WBC
   13.9
   10.4
   11.4
   5.2
   12.3
   Hct
   22.5
   21.7
   20.9
   26.4
   23.7
   Plt
   298
   310
   318
   320
   213
   Cr
   0.6
   0.6
   0.6
   0.8
   TCO2
   20
   Glucose
   187
   133
   132
   101
   Other labs: PT / PTT / INR:16.6/48.9/1.5, ALT / AST:21/38, Alk Phos / T
   Bili:148/0.3, Differential-Neuts:92.8 %, Lymph:4.9 %, Mono:0.9 %,
   Eos:1.3 %, Fibrinogen:459 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.4
   g/dL, LDH:357 IU/L, Ca++:6.9 mg/dL, Mg++:1.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, admitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source, likely lung
   infection vs. abdominal process.
   # fever/hypotension: no identifiable infectious source of fevers. Pt
   has improving but signficant submandibular/R-jaw LAD and diarrhea with
   transaminitis. Hx of steroid/mtx use >1yr, in addition to HIV status,
   therefore at risk for PCP pna, with clinical hx of cough and sob
   (reports compliance with 3x/wk bactrim). Prior imaging showed e/o of L
   upper lobe infiltrate vs fluid, which has since resolved. Concern for
   tooth abscess, ENT suggesting tooth extraction [**11-19**]. Lemierr'e disease
   also possible given jaw, periodontal pain, now with developing upper
   lobe infitrate. Other possiblities include rheumatologic process with
   hx of Stills' disease, thyroid abnormality. AIDS-defining lymphoma
   possibility with e/o of submandibular mass vs. LAD. Also considering
   hemophagocytic syndrome.
      Of note, intermittent hypotension of concern, pt meeting SIRS
   criteria, but maintaining sbp with IVF boluses.  No PE findings of
   cardiogenic shock or obstructive shock, but has elevated JVP with
   markedly cold extremities, which is new for pt.  Given overall picture,
   need to re-image abd and chest-CTA to r/o PE.
   - maintain MAPs>55, trend lactate, IVF boluses
   - CT-PE protocol r/o PE
   - EKG now
   - CT head without contrast r/o acute pathologic process
   - TTE assess for endocarditis, ventricular dysfunction
   - add-on LFTs
   - plan for tooth extraction [**11-19**], NPO, coags on [**11-19**] am
   - blood, urine, cdiff, sputum cxs f/u
   - cryptococcus/cmv/hiv vl pending, induced sputum, glucan pending
   - vanco/unasyn for broad coverage, changed from zosyn today11/8 per ID
 plan for 10d, to complete [**11-24**]
   - bactrim prophylaxis dose
   - prednisone 60mg qd as per rheum recs
   - ultimately, needs lymph node biopsy for diagnosis: lymphoma,
   granulomatous disease, infection
   - fluconazole for thrush
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia, now
   with 3 pt drop in hct, unknown source, no e/o of bleeding.  Consider
   other causes, developing TTP, HUS.  Baseline coagulopathy vs. less
   likely, DIC, as labs do not support latter with elevated fibrinogen.
   Clinical picture may be changing, so need to reassess.
   - t/s
   - follow hct, coags
   # HIV: as above, continue HAART
   - cont HAART
   - f/u CD4 count, viral load
   # transaminitis: mild elevation, with AP elevation, nl TB.  Can be
   secondary to mtx, but ast/alt predominance may suggest either
   alternative source (muscle necrosis - not likely, thyroid disease - hx
   of grave's with RAI, adrenal insufficiency - no eos, celiac dz).
   Concern would be for liver abscess, but without marked leukocytosis,
   less likely.  Has been exposed to hepatitis B according to serologies.
   - recheck LFTs
   # Still's Diease: Pt with continued joint pain and contituitional
   symptoms. Pt has been treated with prednisone 10mg and methotrexate for
   therapy. If pt symptoms worsens t/c C-spine MRI to evaluate for other
   etiology (ie malignancy). ?Incidence of Still's Disease in HIV
   patients.
   - holding mtx, predisone po (on iv hydrocort)
   - rheum consult
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   # fEN: NPO, replete lytes
   # Access: 2pIV
   # PPx: heparin SC, ppi
   # Code: FULL
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2192-11-19 07:32:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2192-11-18**] 09:00 AM
 STOOL CULTURE - At [**2192-11-18**] 04:00 PM
 STOOL CULTURE - At [**2192-11-18**] 09:58 PM
 FEVER - 101.3
F - [**2192-11-18**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2192-11-17**] 04:00 PM
   Ampicillin - [**2192-11-18**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-18**] 08:08 PM
   Vancomycin - [**2192-11-18**] 08:09 PM
   Metronidazole - [**2192-11-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-19**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-19**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.4
C (97.6
   HR: 86 (83 - 138) bpm
   BP: 93/55(63) {81/43(51) - 110/61(73)} mmHg
   RR: 18 (18 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 10 (5 - 15)mmHg
   Total In:
                                                                  5,460 mL
                                                                  1,165 mL
   PO:
                                                                    880 mL
   TF:
   IVF:
                                                                  4,460 mL
                                                                  1,165 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    790 mL
   Urine:
                                                                  2,435 mL
                                                                    790 mL
   NG:
   Stool:
                                                                  1,475 mL
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Bowel sounds present, Tender: diffuse
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   6.8 g/dL
   150 K/uL
   162 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.3 mEq/L
   11 mg/dL
   116 mEq/L
   142 mEq/L
   21.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
                             [**2192-11-17**]  05:55 AM
                             [**2192-11-17**]  08:00 AM
                             [**2192-11-18**]  07:40 AM
                             [**2192-11-18**]  01:35 PM
                             [**2192-11-18**]  08:16 PM
                            [**2192-11-19**]  12:48 AM
                            [**2192-11-19**]  04:06 AM
   WBC
   13.9
   10.4
   11.4
   5.2
   12.3
   17.3
   20.8
   17.3
   Hct
   22.5
   21.7
   20.9
   26.4
   23.7
   23.1
   22.0
   21.1
   Plt
   298
   310
   318
   [**Telephone/Fax (2) 3451**]50
   Cr
   0.6
   0.6
   0.6
   0.8
   0.8
   0.7
   TropT
   <0.01
   Glucose
   187
   133
   132
   101
   104
   162
   Other labs: PT / PTT / INR:17.8/54.2/1.6, CK / CKMB /
   Troponin-T:977/3/<0.01, ALT / AST:24/105, Alk Phos / T Bili:188/0.6,
   Differential-Neuts:87.0 %, Band:7.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL,
   LDH:713 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   48 year old HIV
infected female with recent CD4 count of 166 cells/mm3
   ([**2192-8-10**]) on HAART, h/o thyroid disease; h/o adult Stills disease on
   methotrexate maintenance with steroid taper (on Bactrim prophylaxis);
   is admitted with one week h/o fatigue, malaise; cough non productive;
   NV; LT neck swelling.  She has been recurrently hypotensive and febrile
   without clear source. She conts to have marked diarrhea despite
   negative c.dif.
    >Fever/Hypotension: unclear source to fevers and hypotension although
   oodotogenic infection in a immunocompromised host on MTX/ Steroids
   looms at the leading cause. she has some reactive lymphadenopathy on
   the right side of the jaw. Could be consistent with dental
   carry/abscess with local drainage to affected nodes which we are
   covering with broad spectrum Abx.   There is also a possibility that
   this could represent re-crudescence of her Still's disease (increasing
   ferritin), notably she got worse when she was changed to prednisone PO.
   Lymphoma with rising LDH also a concern. CT scan of the chest is not at
   all consistent with PCP (neg induced sputum). Her diarrhea conts and we
   are empirically treating c. dif (awaiting 3 neg , she has a hx of c.
   dif) her CT scan is consistent with ileitis and in this
   immunocomprimised (despite normal CD4 count) dx such as
   cryptosporidium, CMV etc need to be considered. Will obtain GI clx.  On
   transfer she was changed from Pip-tazo to flagyl and Unasyn. We will
   restart the Pip-tazo and empirically cover c. dif. With flagyl.
   Galactomannan and 1,3 glucan from [**11-15**] are negative at present.
   - GI consult  today to evaluate ileitis. [**Month (only) 51**] need colonoscopy.
   - Will cont to discuss with Rheumatology (her wbc has increased again)
    as to whether this could actually be Still
   - F/u GM and 1,3 glucan
   - Oral surgery for tooth extraction on [**11-19**] (will need to defer
   pending hemodynamic stability)
   - ID following (appreciate input)
   - Follow up blood and urine clx (all results neg to date). Check stool
   clx and O+P, cryptosporidium.
   - Cont to stress dose steroids.
   - MAP goal > 60 mmHg (fluid bolus with PR as needed, baseline BP is
   90-100/60mmHg)
   - Ehrlicia and thin-thick smear.
   - TTE: persistently febrile, no clear embolic manifestations
   > Hypoxemia: relatively clear CXR and resp alkaosis on ABG. Neg PE
   protocol CT scan [**11-18**])
   - her coags (both apt and INR are up): ? antii-phospholipid Ab
   syndrome.
   > Coagulopathy: unclear reason to explain aPTT and INR increases. Will
   check aPL work up.
   - Vit K x 3 days
   >Metabolic acidosos: elevated lactate but also concern for loss of HCO3
   in the stool from diarrhea. Will check urine lytes (for urine anion
   gap) and profound hypokalemia.
   - IV hydration
   > HIV: cont HAART, now with CD4 of 451.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2192-11-19 07:39:00 Physician Resident Progress Note
Chief Complaint: fever, hypotension
   24 Hour Events:
   - CVL placed; SBP >80 since placement, no pressors or Aline needed.
   - Continues to have high output of diarrhea
   - Hypokalemia persistent - ~140 mEq given yesterday
   - Antiphospholipid workup pending.
   - CT torso: ileocolitis, new fluid around gallbladder and in pelvis; no
   PE.
   - Planning for tooth extraction this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2192-11-17**] 04:00 PM
   Ampicillin - [**2192-11-18**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-18**] 08:08 PM
   Vancomycin - [**2192-11-18**] 08:09 PM
   Metronidazole - [**2192-11-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-19**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-19**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.4
C (97.6
   HR: 86 (83 - 138) bpm
   BP: 93/55(63) {81/43(51) - 110/61(73)} mmHg
   RR: 18 (18 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 10 (5 - 15)mmHg
   Total In:
                                                                  5,460 mL
                                                                  1,173 mL
   PO:
                                                                    880 mL
   TF:
   IVF:
                                                                  4,460 mL
                                                                  1,173 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    790 mL
   Urine:
                                                                  2,435 mL
                                                                    790 mL
   NG:
   Stool:
                                                                  1,475 mL
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    383 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   6.8 g/dL
   162 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.3 mEq/L
   11 mg/dL
   116 mEq/L
   142 mEq/L
   21.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
                             [**2192-11-17**]  05:55 AM
                             [**2192-11-17**]  08:00 AM
                             [**2192-11-18**]  07:40 AM
                             [**2192-11-18**]  01:35 PM
                             [**2192-11-18**]  08:16 PM
                            [**2192-11-19**]  12:48 AM
                            [**2192-11-19**]  04:06 AM
   WBC
   13.9
   10.4
   11.4
   5.2
   12.3
   17.3
   20.8
   17.3
   Hct
   22.5
   21.7
   20.9
   26.4
   23.7
   23.1
   22.0
   21.1
   Plt
   298
   310
   318
   [**Telephone/Fax (2) 3451**]50
   Cr
   0.6
   0.6
   0.6
   0.8
   0.8
   0.7
   TropT
   <0.01
   Glucose
   187
   133
   132
   101
   104
   162
   Other labs: PT / PTT / INR:17.8/54.2/1.6, CK / CKMB /
   Troponin-T:977/3/<0.01, ALT / AST:24/105, Alk Phos / T Bili:188/0.6,
   Differential-Neuts:87.0 %, Band:7.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL,
   LDH:713 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Imaging:
   CT Chest/Abd/Pelvis:
   IMPRESSION:
   1. Accounting for technical limitations, there is no pulmonary embolism
   to
   the segmental level. Small subsegmental pulmonary emboli could be
   overlooked.
   2. No evidence of pneumonia. New small bilateral pleural effusion with
   persistent tiny bibasilar dependent atelectasis.
   3. Stable lymphadenopathy.
   4. New ascites in the pelvic cavity and around the gallbladder with new
   thickening of the transverse and right colon as well as the distal
   ileum,
   could be due to ileal colitis, could be infectious in the context of
   immunosuppression.
   5. Stable presumed fibroid.
   6. Right internal jugular catheter ends in upper IVC, should be pulled
   back
   for optimal placement.
   Micro:
   Stool O&P
 pending
   C. diff - negative
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, admitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source, likely lung
   infection vs. abdominal process.
   # fever/hypotension: no identifiable infectious source of fevers. Pt
   has improving but signficant submandibular/R-jaw LAD and diarrhea with
   transaminitis. Hx of steroid/mtx use >1yr, in addition to HIV status,
   therefore at risk for PCP pna, with clinical hx of cough and sob
   (reports compliance with 3x/wk bactrim). Prior imaging showed e/o of L
   upper lobe infiltrate vs fluid, which has since resolved. Concern for
   tooth abscess, ENT suggesting tooth extraction [**11-19**]. Lemierr'e disease
   also possible given jaw, periodontal pain, now with developing upper
   lobe infitrate. Other possiblities include rheumatologic process with
   hx of Stills' disease, thyroid abnormality. AIDS-defining lymphoma
   possibility with e/o of submandibular mass vs. LAD. Also considering
   hemophagocytic syndrome.
      Of note, intermittent hypotension of concern, pt meeting SIRS
   criteria, but maintaining sbp with IVF boluses.  No PE findings of
   cardiogenic shock or obstructive shock, but has elevated JVP with
   markedly cold extremities, which is new for pt.  Given overall picture,
   need to re-image abd and chest-CTA to r/o PE.
   - maintain MAPs>55, trend lactate, IVF boluses
   - CT-PE protocol r/o PE
   - EKG now
   - CT head without contrast r/o acute pathologic process
   - TTE assess for endocarditis, ventricular dysfunction
   - add-on LFTs
   - plan for tooth extraction [**11-19**], NPO, coags on [**11-19**] am
   - blood, urine, cdiff, sputum cxs f/u
   - cryptococcus/cmv/hiv vl pending, induced sputum, glucan pending
   - vanco/unasyn for broad coverage, changed from zosyn today11/8 per ID
 plan for 10d, to complete [**11-24**]
   - bactrim prophylaxis dose
   - prednisone 60mg qd as per rheum recs
   - ultimately, needs lymph node biopsy for diagnosis: lymphoma,
   granulomatous disease, infection
   - fluconazole for thrush
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia, now
   with 3 pt drop in hct, unknown source, no e/o of bleeding.  Consider
   other causes, developing TTP, HUS.  Baseline coagulopathy vs. less
   likely, DIC, as labs do not support latter with elevated fibrinogen.
   Clinical picture may be changing, so need to reassess.
   - t/s
   - follow hct, coags
   # HIV: as above, continue HAART
   - cont HAART
   - f/u CD4 count, viral load
   # transaminitis: mild elevation, with AP elevation, nl TB.  Can be
   secondary to mtx, but ast/alt predominance may suggest either
   alternative source (muscle necrosis - not likely, thyroid disease - hx
   of grave's with RAI, adrenal insufficiency - no eos, celiac dz).
   Concern would be for liver abscess, but without marked leukocytosis,
   less likely.  Has been exposed to hepatitis B according to serologies.
   - recheck LFTs
   # Still's Diease: Pt with continued joint pain and contituitional
   symptoms. Pt has been treated with prednisone 10mg and methotrexate for
   therapy. If pt symptoms worsens t/c C-spine MRI to evaluate for other
   etiology (ie malignancy). ?Incidence of Still's Disease in HIV
   patients.
   - holding mtx, predisone po (on iv hydrocort)
   - rheum consult
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   # fEN: NPO, replete lytes
   # Access: 2pIV
   # PPx: heparin SC, ppi
   # Code: FULL
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Comments: npo for dental extraction
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2192-11-19 07:58:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
 MULTI LUMEN - START [**2192-11-18**] 09:00 AM
 STOOL CULTURE - At [**2192-11-18**] 04:00 PM
 STOOL CULTURE - At [**2192-11-18**] 09:58 PM
 FEVER - 101.3
F - [**2192-11-18**] 08:00 AM
   - CVL placed; SBP >80 since placement, no pressors or Aline needed.
   - Continues to have high output of diarrhea
   - Hypokalemia persistent - ~140 mEq given yesterday
   - Antiphospholipid workup pending.
   - CT torso: ileocolitis, new fluid around gallbladder and in pelvis; no
   PE.
   - Planning for tooth extraction this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2192-11-17**] 04:00 PM
   Ampicillin - [**2192-11-18**] 12:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-18**] 08:08 PM
   Vancomycin - [**2192-11-18**] 08:09 PM
   Metronidazole - [**2192-11-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-19**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-19**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.4
C (97.6
   HR: 81 (81 - 138) bpm
   BP: 90/56(64) {81/43(51) - 110/61(73)} mmHg
   RR: 14 (14 - 43) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  5,460 mL
                                                                  2,833 mL
   PO:
                                                                    880 mL
   TF:
   IVF:
                                                                  4,460 mL
                                                                  2,833 mL
   Blood products:
   Total out:
                                                                  3,910 mL
                                                                    790 mL
   Urine:
                                                                  2,435 mL
                                                                    790 mL
   NG:
   Stool:
                                                                  1,475 mL
   Drains:
   Balance:
                                                                  1,550 mL
                                                                  2,043 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General: Lying in bed, NAD. RIJ in place.  Alert and oriented.
   HEENT: unchanged periorbital erythema/edema, some flaking of skin..
   MMM, OP and tooth exam unchanged.
   Heart: RRR, S1 S2
   Lungs: CTA bilat
   Abdomen: soft, NT/ND, +BS
   Extrem: warm. No rash.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   6.8 g/dL
   162 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.3 mEq/L
   11 mg/dL
   116 mEq/L
   142 mEq/L
   21.1 %
   17.3 K/uL
        [image002.jpg]
                             [**2192-11-15**]  04:50 PM
                             [**2192-11-15**]  10:16 PM
                             [**2192-11-16**]  04:02 AM
                             [**2192-11-17**]  05:55 AM
                             [**2192-11-17**]  08:00 AM
                             [**2192-11-18**]  07:40 AM
                             [**2192-11-18**]  01:35 PM
                             [**2192-11-18**]  08:16 PM
                            [**2192-11-19**]  12:48 AM
                            [**2192-11-19**]  04:06 AM
   WBC
   13.9
   10.4
   11.4
   5.2
   12.3
   17.3
   20.8
   17.3
   Hct
   22.5
   21.7
   20.9
   26.4
   23.7
   23.1
   22.0
   21.1
   Plt
   298
   310
   318
   [**Telephone/Fax (2) 3451**]50
   Cr
   0.6
   0.6
   0.6
   0.8
   0.8
   0.7
   TropT
   <0.01
   Glucose
   187
   133
   132
   101
   104
   162
   Other labs: PT / PTT / INR:17.8/54.2/1.6, CK / CKMB /
   Troponin-T:977/3/<0.01, ALT / AST:24/105, Alk Phos / T Bili:188/0.6,
   Differential-Neuts:87.0 %, Band:7.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL,
   LDH:713 IU/L, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, now readmitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source.
   # fever/hypotension: no identifiable infectious source of fevers. Pt
   has improving but signficant submandibular/R-jaw LAD and diarrhea with
   transaminitis. Hx of steroid/mtx use >1yr, in addition to HIV status,
   therefore at risk for PCP pna, with clinical hx of cough and sob
   (reports compliance with 3x/wk bactrim). Prior imaging showed e/o of L
   upper lobe infiltrate vs fluid, which has since resolved. Concern for
   tooth abscess, ENT suggesting tooth extraction [**11-19**]. Lemierr'e disease
   also possible given jaw, periodontal pain, now with developing upper
   lobe infitrate. Other possiblities include rheumatologic process with
   hx of Stills' disease, thyroid abnormality. AIDS-defining lymphoma
   possibility with e/o of submandibular mass vs. LAD. Also considering
   hemophagocytic syndrome.
      Of note, intermittent hypotension of concern, pt meeting SIRS
   criteria, but maintaining sbp with IVF boluses.  No PE findings of
   cardiogenic shock or obstructive shock, but has elevated JVP with
   markedly cold extremities, which is new for pt.  Given overall picture,
   need to re-image abd and chest-CTA to r/o PE.
   - maintain MAPs>55, trend lactate, IVF boluses
   - CT-PE protocol r/o PE
   - EKG now
   - CT head without contrast r/o acute pathologic process
   - TTE assess for endocarditis, ventricular dysfunction
   - add-on LFTs
   - plan for tooth extraction [**11-19**], NPO, coags on [**11-19**] am
   - blood, urine, cdiff, sputum cxs f/u
   - cryptococcus/cmv/hiv vl pending, induced sputum, glucan pending
   - vanco/unasyn for broad coverage, changed from zosyn today11/8 per ID
 plan for 10d, to complete [**11-24**]
   - bactrim prophylaxis dose
   - prednisone 60mg qd as per rheum recs
   - ultimately, needs lymph node biopsy for diagnosis: lymphoma,
   granulomatous disease, infection
   - fluconazole for thrush
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia, now
   with 3 pt drop in hct, unknown source, no e/o of bleeding.  Consider
   other causes, developing TTP, HUS.  Baseline coagulopathy vs. less
   likely, DIC, as labs do not support latter with elevated fibrinogen.
   Clinical picture may be changing, so need to reassess.
   - t/s
   - follow hct, coags
   # HIV: as above, continue HAART
   - cont HAART
   - f/u CD4 count, viral load
   # transaminitis: mild elevation, with AP elevation, nl TB.  Can be
   secondary to mtx, but ast/alt predominance may suggest either
   alternative source (muscle necrosis - not likely, thyroid disease - hx
   of grave's with RAI, adrenal insufficiency - no eos, celiac dz).
   Concern would be for liver abscess, but without marked leukocytosis,
   less likely.  Has been exposed to hepatitis B according to serologies.
   - recheck LFTs
   # Still's Diease: Pt with continued joint pain and contituitional
   symptoms. Pt has been treated with prednisone 10mg and methotrexate for
   therapy. If pt symptoms worsens t/c C-spine MRI to evaluate for other
   etiology (ie malignancy). ?Incidence of Still's Disease in HIV
   patients.
   - holding mtx, predisone po (on iv hydrocort)
   - rheum consult
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   # fEN: NPO, replete lytes
   # Access: 2pIV
   # PPx: heparin SC, ppi
   # Code: FULL
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Comments: NPO for procedure
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2192-11-20 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2192-11-19**] 01:25 PM
 OR RECEIVED - At [**2192-11-19**] 02:10 PM
 TRANSTHORACIC ECHO - At [**2192-11-19**] 03:30 PM
 BLOOD CULTURED - At [**2192-11-20**] 02:04 AM
 URINE CULTURE - At [**2192-11-20**] 02:04 AM
 EKG - At [**2192-11-20**] 03:11 AM
 FEVER - 101.5
F - [**2192-11-20**] 02:00 AM
   - Dental extraction
   - Sinus tachycardia overnight in setting of fever
   - Febrile overnight --> cultures sent
   - GI consulted but they did not come by
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2192-11-17**] 04:00 PM
   Ampicillin - [**2192-11-18**] 12:00 PM
   Vancomycin - [**2192-11-19**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-20**] 04:00 AM
   Metronidazole - [**2192-11-20**] 06:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-19**] 08:00 AM
   Meperidine (Demerol) - [**2192-11-20**] 02:04 AM
   Heparin Sodium (Prophylaxis) - [**2192-11-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-20**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.3
C (99.2
   HR: 86 (70 - 117) bpm
   BP: 105/51(63) {94/51(62) - 129/72(88)} mmHg
   RR: 26 (18 - 45) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 14 (4 - 15)mmHg
   Total In:
                                                                  5,949 mL
                                                                  1,297 mL
   PO:
                                                                    270 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  5,679 mL
                                                                  1,147 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    875 mL
   Urine:
                                                                  1,755 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,194 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   7.1 g/dL
   141 mg/dL
   0.6 mg/dL
   18 mEq/L
   3.4 mEq/L
   8 mg/dL
   115 mEq/L
   142 mEq/L
   21.1 %
   12.1 K/uL
        [image002.jpg]
                             [**2192-11-17**]  05:55 AM
                             [**2192-11-17**]  08:00 AM
                             [**2192-11-18**]  07:40 AM
                             [**2192-11-18**]  01:35 PM
                             [**2192-11-18**]  08:16 PM
                            [**2192-11-19**]  12:48 AM
                            [**2192-11-19**]  04:06 AM
                            [**2192-11-19**]  12:07 PM
                            [**2192-11-19**]  08:55 PM
                            [**2192-11-20**]  04:33 AM
   WBC
   5.2
   12.3
   17.3
   20.8
   17.3
   12.1
   Hct
   26.4
   23.7
   23.1
   22.0
   21.1
   21.1
   Plt
   [**Telephone/Fax (3) **]59
   150
   189
   Cr
   0.6
   0.8
   0.8
   0.7
   0.6
   0.7
   0.6
   TropT
   <0.01
   Glucose
   132
   101
   104
   162
   179
   183
   141
   Other labs: PT / PTT / INR:15.0/36.2/1.3, CK / CKMB /
   Troponin-T:977/3/<0.01, ALT / AST:24/105, Alk Phos / T Bili:188/0.6,
   Differential-Neuts:76.0 %, Band:11.0 %, Lymph:4.0 %, Mono:3.0 %,
   Eos:4.0 %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0
   g/dL, LDH:713 IU/L, Ca++:7.3 mg/dL, Mg++:1.7 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, now readmitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source.
   # hypotension: now resolved.  Concern for sepsis but more likely seems
   to have possible adrenal insufficiency (changed to PO  steroids,
   profuse diarrhea and likely poorly absorbing).  Now SBP > 80 (her
   baseline) since admission.
   -          Bolus prn to maintain CVP 8-12.
   -          Infectious workup as below.
   -          Trend lactates.
   # fever:  no idenitiable source thus far.  Has had submandibular/jaw
   LAD, diarrhea, transaminitis, tooth abscess.  Other possibilities
   include noninfectious causes (Stills in particular).  Pan-Ct yesterday.
   -          tooth extraction planned for today
   -          f/u ID recs.
   -          Consult GI re: ileocolitis.
   -          f/u existing culture data
   -          consider LN biopsy as previously discussed.
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia.
   Coagulopathy not improved with vitamin K.  Unclear etiology.
   -          continue to trend.
   # HIV: as above, continue HAART
   # Still's Diease: Pt with continued joint pain and contituitional
   symptoms. Pt has been treated with prednisone 10mg and methotrexate for
   therapy. If pt symptoms worsens t/c C-spine MRI to evaluate for other
   etiology (ie malignancy). ?Incidence of Still's Disease in HIV
   patients.
   - holding mtx, predisone po (on iv hydrocort until diarrhea improves)
   - rheum following.
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-11-21 07:28:00 Physician Resident Progress Note
Chief Complaint: fevers, tachycardia
   24 Hour Events:
   Fever to 102 - cultured already in am [**11-20**]
   ID consult - ?reactivation of TB in colon
   1uPRBC for hct 22
   GI consult - prep for scope for [**11-21**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2192-11-18**] 12:00 PM
   Vancomycin - [**2192-11-20**] 09:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-21**] 03:58 AM
   Metronidazole - [**2192-11-21**] 06:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-21**] 03:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.7
C (99.9
   HR: 55 (55 - 107) bpm
   BP: 119/64(77) {107/57(70) - 125/80(90)} mmHg
   RR: 25 (16 - 45) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (9 - 21)mmHg
   Total In:
                                                                  3,731 mL
                                                                  1,713 mL
   PO:
                                                                    450 mL
                                                                  1,100 mL
   TF:
   IVF:
                                                                  3,001 mL
                                                                    613 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  2,295 mL
                                                                  1,910 mL
   Urine:
                                                                  1,545 mL
                                                                    710 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,436 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   NAD, a/ox3, flat affect, cn2-12 g-intact, abd soft, non tender, lungs
   clear to auscultation bil, rrr, no murmurs, trace LE edema
   Labs / Radiology
   164 K/uL
   8.2 g/dL
   122 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.1 mEq/L
   5 mg/dL
   110 mEq/L
   143 mEq/L
   24.3 %
   18.0 K/uL
        [image002.jpg]
                             [**2192-11-18**]  07:40 AM
                             [**2192-11-18**]  01:35 PM
                             [**2192-11-18**]  08:16 PM
                            [**2192-11-19**]  12:48 AM
                            [**2192-11-19**]  04:06 AM
                            [**2192-11-19**]  12:07 PM
                            [**2192-11-19**]  08:55 PM
                            [**2192-11-20**]  04:33 AM
                            [**2192-11-20**]  04:25 PM
                            [**2192-11-21**]  03:21 AM
   WBC
   12.3
   17.3
   20.8
   17.3
   12.1
   13.3
   18.0
   Hct
   23.7
   23.1
   22.0
   21.1
   21.1
   21.7
   24.3
   Plt
   [**Telephone/Fax (3) **]50
   189
   164
   164
   Cr
   0.8
   0.8
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   TropT
   <0.01
   Glucose
   101
   104
   162
   179
   183
   141
   140
   122
   Other labs: PT / PTT / INR:15.1/31.4/1.3, CK / CKMB /
   Troponin-T:147/3/<0.01, ALT / AST:15/27, Alk Phos / T Bili:166/0.4,
   Differential-Neuts:86.7 %, Band:11.0 %, Lymph:8.2 %, Mono:1.9 %,
   Eos:2.3 %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2
   g/dL, LDH:555 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   No new cx data, all (-)
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, now readmitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source.
   # hypotension
 resolved for >72hrs, stable on IV steroids.  Concern
   for sepsis, but SBPs range >80 to 100.  Etiology relative adrenal
   insufficiency vs baseline low bp.
   - prn IVF, keep MAP>60, CVP 8-12
   - trend lactate
   # fever:  no idenitiable source, +submandibular/jaw LAD, +diarrhea,
   +transaminitis, +tooth abscess
 removed [**11-19**], ?lymphoma, ?Still
   e/o colitis on CT [**11-18**].  Vanco, zosyn, flagyl for pan coverage,
   treating odontogenic abscess and presumptive cdiff.  ID questioning TB
   reactivation.
   -  ID following
   -  prepped overnight [**11-20**] to [**11-21**], plan for c-scope [**11-21**], pending
   biopsies
   -  f/u cxs
   -  LN biopsy to be considered
   -  recheck cdiff
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia.
   Coagulopathy still elevated, overall unclear, but stable.
   - trend
   # HIV: as above, continue HAART
   # Still's Diease - joint pain, +constitutional symptoms, previously
   tx
ed with prednisone 10mg, mtx for therapy, now on IV steroids.
   Markedly abnormal elevated ferritin (iron:transferring ratio <40%,
   lymphoma vs ra likely cause).
   - hold mtx, hold PO predisone
 on iv hydrocort pending rheum input
   - rheum following
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor

2192-11-21 07:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.3
F - [**2192-11-20**] 02:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2192-11-18**] 12:00 PM
   Vancomycin - [**2192-11-20**] 09:19 PM
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-21**] 03:58 AM
   Metronidazole - [**2192-11-21**] 06:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-21**] 03:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-21**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.7
C (99.9
   HR: 55 (55 - 107) bpm
   BP: 119/64(77) {107/57(70) - 125/80(90)} mmHg
   RR: 25 (16 - 45) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 9 (9 - 21)mmHg
   Total In:
                                                                  3,731 mL
                                                                  1,715 mL
   PO:
                                                                    450 mL
                                                                  1,100 mL
   TF:
   IVF:
                                                                  3,001 mL
                                                                    615 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  2,295 mL
                                                                  1,910 mL
   Urine:
                                                                  1,545 mL
                                                                    710 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,436 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.2 g/dL
   164 K/uL
   122 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.1 mEq/L
   5 mg/dL
   110 mEq/L
   143 mEq/L
   24.3 %
   18.0 K/uL
        [image002.jpg]
                             [**2192-11-18**]  07:40 AM
                             [**2192-11-18**]  01:35 PM
                             [**2192-11-18**]  08:16 PM
                            [**2192-11-19**]  12:48 AM
                            [**2192-11-19**]  04:06 AM
                            [**2192-11-19**]  12:07 PM
                            [**2192-11-19**]  08:55 PM
                            [**2192-11-20**]  04:33 AM
                            [**2192-11-20**]  04:25 PM
                            [**2192-11-21**]  03:21 AM
   WBC
   12.3
   17.3
   20.8
   17.3
   12.1
   13.3
   18.0
   Hct
   23.7
   23.1
   22.0
   21.1
   21.1
   21.7
   24.3
   Plt
   [**Telephone/Fax (3) **]50
   189
   164
   164
   Cr
   0.8
   0.8
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   TropT
   <0.01
   Glucose
   101
   104
   162
   179
   183
   141
   140
   122
   Other labs: PT / PTT / INR:15.1/31.4/1.3, CK / CKMB /
   Troponin-T:147/3/<0.01, ALT / AST:15/27, Alk Phos / T Bili:166/0.4,
   Differential-Neuts:86.7 %, Band:11.0 %, Lymph:8.2 %, Mono:1.9 %,
   Eos:2.3 %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2
   g/dL, LDH:555 IU/L, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   48 year old HIV
infected female with recent CD4 count of 166 cells/mm3
   ([**2192-8-10**]) on HAART, h/o thyroid disease; h/o adult Stills disease on
   methotrexate maintenance with steroid taper (on Bactrim prophylaxis);
   is admitted with one week h/o fatigue, malaise; cough non productive;
   NV; LT neck swelling.  She has been recurrently hypotensive and febrile
   without clear source. She conts to have marked diarrhea despite
   negative c.dif.
   >Fever/Hypotension: unclear source to fevers and hypotension although
   oodotogenic infection in a immunocompromised host on MTX/ Steroids
   looms at the leading cause. she has some reactive lymphadenopathy on
   the right side of the jaw. Could be consistent with dental
   carry/abscess with local drainage to affected nodes which we are
   covering with broad spectrum Abx. And we have now extracted the tooth.
   There is also a possibility that this could represent re-crudescence of
   her Still's disease (increasing ferritin), notably she got worse when
   she was changed to prednisone PO. Lymphoma with rising LDH also a
   concern. CT scan of the chest is not at all consistent with PCP (neg
   induced sputum). Her diarrhea conts and we are empirically treating c.
   dif (despite 3 neg , she has a hx of c. dif) her CT scan is consistent
   with ileitis and in this immunocomprimised (despite normal CD4 count)
   dx such as cryptosporidium (although neg on DFA), CMV etc need to be
   considered. Will obtain GI clx.  We will need to at least consider
   colonoscopyt. The concern now is that her WBC is improving and she has
   a marked bandemia today, her abdominal exam is not necessarily
   re-assuring given her high dose steroids.
   - GI consult to evaluate ileitis. [**Month (only) 51**] need colonoscopy. Also may need
   repeat imaging (CT abd)
   - check lactate and LFTs
   - Will cont to discuss with Rheumatology (her wbc has increased again)
   as to whether this could actually be Still
s worsening (we will repeat
   the diltutional assay of her ferritin as it is >[**2184**])
   - ID following (appreciate input)
   - Follow up blood and urine clx (all results neg to date). Stool clx
   have been neg to date.
   - Cont to stress dose steroids.
   - MAP goal > 60 mmHg (fluid bolus with PR as needed, baseline BP is
   90-100/60mmHg)
   - Ehrlicia and thin-thick smear.
   -  F/u urine histo Ag.
   > Hypoxemia: relatively clear CXR and resp alkaosis on ABG. Neg PE
   protocol CT scan [**11-18**])
   - her coags (both apt and INR are up): ? antii-phospholipid Ab syndrome
   awaiting input.
   > Coagulopathy: unclear reason to explain aPTT and INR increases. Will
   check aPL work up.
   - Vit K x 3 days
   >Metabolic acidosos: elevated lactate but also concern for loss of HCO3
   in the stool from diarrhea. Will check urine lytes (for urine anion
   gap) and profound hypokalemia.
   - IV hydration
   > HIV: cont HAART, now with CD4 of 451.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2192-11-22 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2192-11-21**] 11:30 AM
   transported to endoscope suite for colonoscopy with bx
   - Colonoscopy performed: gross appearance normal, biopsies of cecum and
   ascending colon taken.
   - Sleepy following study (2 ativan given), but arousable and
   appropriate when woken up.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-21**] 03:58 AM
   Vancomycin - [**2192-11-21**] 09:00 PM
   Piperacillin - [**2192-11-22**] 04:00 AM
   Metronidazole - [**2192-11-22**] 06:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-22**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 67 (53 - 69) bpm
   BP: 120/78(89) {101/47(64) - 134/78(90)} mmHg
   RR: 28 (23 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 14 (3 - 19)mmHg
   Total In:
                                                                  4,738 mL
                                                                    886 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
                                                                  3,538 mL
                                                                    886 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                    770 mL
   Urine:
                                                                  2,290 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    648 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Nad, a/ox3, tachypnea to 35, cn 2-12 grossly intact, abd soft ntnd,
   trace LE edema
   Labs / Radiology
   126 K/uL
   8.6 g/dL
   132 mg/dL
   0.6 mg/dL
   26 mEq/L
   2.9 mEq/L
   4 mg/dL
   111 mEq/L
   143 mEq/L
   25.8 %
   22.5 K/uL
        [image002.jpg]
                             [**2192-11-18**]  08:16 PM
                            [**2192-11-19**]  12:48 AM
                            [**2192-11-19**]  04:06 AM
                            [**2192-11-19**]  12:07 PM
                            [**2192-11-19**]  08:55 PM
                            [**2192-11-20**]  04:33 AM
                            [**2192-11-20**]  04:25 PM
                            [**2192-11-21**]  03:21 AM
                            [**2192-11-21**]  08:13 PM
                            [**2192-11-22**]  03:16 AM
   WBC
   20.8
   17.3
   12.1
   13.3
   18.0
   22.5
   Hct
   22.0
   21.1
   21.1
   21.7
   24.3
   25.8
   Plt
   159
   150
   189
   164
   164
   126
   Cr
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   TropT
   <0.01
   Glucose
   162
   179
   183
   141
   140
   122
   127
   132
   Other labs: PT / PTT / INR:15.9/39.5/1.4, CK / CKMB /
   Troponin-T:147/3/<0.01, ALT / AST:15/24, Alk Phos / T Bili:149/0.4,
   Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %, Mono:8.0 %, Eos:0.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:540 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   No new cx data, all cxs (-)
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, now readmitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source.
   # hypotension
 resolved for >72hrs, stable on IV steroids.  Concern
   for sepsis, but SBPs range >80 to 100.  Etiology relative adrenal
   insufficiency vs baseline low bp.
   - prn IVF, keep MAP>60, CVP 8-12
   - recheck lactate
   # fever:  no idenitiable source, +submandibular/jaw LAD, +diarrhea,
   +transaminitis, +tooth abscess
 removed [**11-19**], ?lymphoma, ?Still
   e/o colitis on CT [**11-18**].  Vanco, zosyn, flagyl for pan coverage,
   treating odontogenic abscess and presumptive cdiff.  ID questioning TB
   reactivation.  Underwent colonoscopy [**11-21**], biopsies pending, otherwise
   unremarkable.
   -  ID following
   -  f/u colon biopsies, assess for TB
   -  f/u cxs
   -  discuss with ID: plan to DC vanco and zosyn today, end of 7d course
   -  continue flagyl until cdiff returns (-)
   -  LN biopsy to be considered
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia.
   Coagulopathy still elevated, overall unclear, but stable.
   - trend
   # HIV: as above, continue HAART
   # Still's Diease - joint pain, +constitutional symptoms, previously
   tx
ed with prednisone 10mg, mtx for therapy, now on IV steroids.
   Markedly abnormal elevated ferritin (iron:transferring ratio <40%,
   lymphoma vs ra likely cause).
   - hold mtx, hold PO predisone
 on iv hydrocort pending rheum input
   - rheum following
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   # malnutrition/electrolytes/diarrhea: etiology unknown, needs
   aggressive K and P repletion.  Will start immodium once cdiff(-)
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Glycemic Control:  iss
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor, with reset parameter for tachypnea

2192-11-22 08:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ENDOSCOPY - At [**2192-11-21**] 11:30 AM
   transported to endoscope suite for colonoscopy with bx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-21**] 03:58 AM
   Vancomycin - [**2192-11-21**] 09:00 PM
   Piperacillin - [**2192-11-22**] 04:00 AM
   Metronidazole - [**2192-11-22**] 06:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-11-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-22**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 67 (53 - 69) bpm
   BP: 120/78(89) {101/47(64) - 134/78(90)} mmHg
   RR: 28 (23 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 14 (3 - 19)mmHg
   Total In:
                                                                  4,738 mL
                                                                    889 mL
   PO:
                                                                  1,200 mL
   TF:
   IVF:
                                                                  3,538 mL
                                                                    889 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                    770 mL
   Urine:
                                                                  2,290 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    648 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : ) and diminished air
   movement at the bases
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   126 K/uL
   132 mg/dL
   0.6 mg/dL
   26 mEq/L
   2.9 mEq/L
   4 mg/dL
   111 mEq/L
   143 mEq/L
   25.8 %
   22.5 K/uL
        [image002.jpg]
                             [**2192-11-18**]  08:16 PM
                            [**2192-11-19**]  12:48 AM
                            [**2192-11-19**]  04:06 AM
                            [**2192-11-19**]  12:07 PM
                            [**2192-11-19**]  08:55 PM
                            [**2192-11-20**]  04:33 AM
                            [**2192-11-20**]  04:25 PM
                            [**2192-11-21**]  03:21 AM
                            [**2192-11-21**]  08:13 PM
                            [**2192-11-22**]  03:16 AM
   WBC
   20.8
   17.3
   12.1
   13.3
   18.0
   22.5
   Hct
   22.0
   21.1
   21.1
   21.7
   24.3
   25.8
   Plt
   159
   150
   189
   164
   164
   126
   Cr
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   TropT
   <0.01
   Glucose
   162
   179
   183
   141
   140
   122
   127
   132
   Other labs: PT / PTT / INR:15.9/39.5/1.4, CK / CKMB /
   Troponin-T:147/3/<0.01, ALT / AST:15/24, Alk Phos / T Bili:149/0.4,
   Differential-Neuts:78.0 %, Band:8.0 %, Lymph:4.0 %, Mono:8.0 %, Eos:0.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:540 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   48 year old HIV
infected female with recent CD4 count of 166 cells/mm3
   ([**2192-8-10**]) on HAART, h/o thyroid disease; h/o adult Stills disease on
   methotrexate maintenance with steroid taper (on Bactrim prophylaxis);
   is admitted with one week h/o fatigue, malaise; cough non productive;
   NV; LT neck swelling.  She has been recurrently hypotensive and febrile
   without clear source. She conts to have marked diarrhea despite
   negative c.dif and is not s/p a macroscopically neg [**Last Name (un) **], but we are
   awaiting the results of the bx/infectious work up.
   >Fever/Hypotension: unclear source to fevers and hypotension although
   oodotogenic infection in a immunocompromised host on MTX/ Steroids
   looms at the leading cause. she has some reactive lymphadenopathy on
   the right side of the jaw. Could be consistent with dental
   carry/abscess with local drainage to affected nodes which we are
   covering with broad spectrum Abx. And we have now extracted the tooth.
   There is also a possibility that this could represent re-crudescence of
   her Still's disease (increasing ferritin), notably she got worse when
   she was changed to prednisone PO. Lymphoma with rising LDH also a
   concern. CT scan of the chest is not at all consistent with PCP (neg
   induced sputum). Her diarrhea conts and we are empirically treating c.
   dif (despite 3 neg , she has a hx of c. dif) her CT scan is consistent
   with ileitis and in this immunocomprimised (despite normal CD4 count)
   dx such as cryptosporidium (although neg on DFA), CMV as well as
   reactivation TB and we await the results of her bx on [**Last Name (un) **]. Her
   significant increase in ferritin is again very concerning for
   recrudescent Still
s disease vs lymphoma in addition to an infection.
   We will cont to follow closely the CBC for evolution into
   hemophagocytic syndrome (following  Plts).
   - Stop Vanco and Zosyn (s/p a 7 day course), cont flagyl for c. dif
   awaiting repeat test [**11-22**]
   - Colonoscopy with clx /bx [**11-21**]: f/u results
   - Will cont to discuss with Rheumatology (her wbc has increased again)
   and marked increased in ferritin over the last 24 hrs. Will need to
   discuss whether she needs increasing steroid doses
   - ID following (appreciate input)
   - Follow up blood and urine clx (all results neg to date). Stool clx
   have been neg to date.
   - Cont to stress dose steroids.
   - MAP goal > 60 mmHg (fluid bolus with PR as needed, baseline BP is
   90-100/60mmHg)
   - Ehrlicia and thin-thick smear (neg), histoplasmosis (pend),
   strongyloides (pend).
   -  F/u urine histo Ag.
   > Hypoxemia: relatively clear CXR and resp alkaosis on ABG. Neg PE
   protocol CT scan [**11-18**]). Increasing tachypnea, she has been in bed since
   her arrival, her exam is consistent with atlectasis. This is compounded
   by her hypokalemia and hypophos/mag.
   - Check sputum clx
   - Pulm toilet, OOB to chair,. CXR today
   - Optimize electrolytes Mg, K, PO4
   - her coags (both apt and INR are up): ? antii-phospholipid Ab syndrome
   awaiting labs
    Thrombocytopenia: ? hemophagocytic syndrome, medications (vanco? Which
   we are stopping today), heparin (on for 8 days now)  and PPI
   - repeat CBC and if plts lower then check HIT.
   > Coagulopathy: unclear reason to explain aPTT and INR increases. Will
   check aPL work up.
   - Vit K s/p 3 days
    > HIV: cont HAART, now with CD4 of 451.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2192-11-23 07:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-21**] 03:58 AM
   Piperacillin - [**2192-11-22**] 04:00 AM
   Vancomycin - [**2192-11-22**] 08:43 AM
   Metronidazole - [**2192-11-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-22**] 08:43 AM
   Heparin Sodium (Prophylaxis) - [**2192-11-22**] 12:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-23**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 65 (56 - 103) bpm
   BP: 113/58(72) {95/45(57) - 132/95(87)} mmHg
   RR: 29 (23 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 14 (11 - 27)mmHg
   Total In:
                                                                  5,239 mL
                                                                  1,873 mL
   PO:
                                                                    940 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  4,299 mL
                                                                  1,513 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                  2,550 mL
   Urine:
                                                                  4,630 mL
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    609 mL
                                                                   -677 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical adenopathy, much improved
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.1 g/dL
   106 K/uL
   160 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   4 mg/dL
   110 mEq/L
   143 mEq/L
   24.7 %
   14.8 K/uL
        [image002.jpg]
                            [**2192-11-19**]  04:06 AM
                            [**2192-11-19**]  12:07 PM
                            [**2192-11-19**]  08:55 PM
                            [**2192-11-20**]  04:33 AM
                            [**2192-11-20**]  04:25 PM
                            [**2192-11-21**]  03:21 AM
                            [**2192-11-21**]  08:13 PM
                            [**2192-11-22**]  03:16 AM
                            [**2192-11-22**]  04:16 PM
                            [**2192-11-23**]  03:54 AM
   WBC
   17.3
   12.1
   13.3
   18.0
   22.5
   14.8
   Hct
   21.1
   21.1
   21.7
   24.3
   25.8
   24.7
   Plt
   150
   189
   164
   164
   126
   111
   106
   Cr
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   Glucose
   162
   179
   183
   141
   140
   122
   127
   132
   138
   160
   Other labs: PT / PTT / INR:16.6/33.3/1.5, CK / CKMB /
   Troponin-T:147/3/<0.01, ALT / AST:[**12-5**], Alk Phos / T Bili:127/0.3,
   Differential-Neuts:73.0 %, Band:4.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:2.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:633 IU/L, Ca++:6.9 mg/dL, Mg++:1.4 mg/dL, PO4:2.6 mg/dL
   [**11-22**] C. dif neg
   Assessment and Plan
   48 year old HIV
infected female with recent CD4 count of 166 cells/mm3
   ([**2192-8-10**]) on HAART, h/o thyroid disease; h/o adult Stills disease on
   methotrexate maintenance with steroid taper (on Bactrim prophylaxis);
   is admitted with one week h/o fatigue, malaise; cough non productive;
   NV;.  She has been recurrently hypotensive and febrile without clear
   source. She conts to have marked diarrhea despite negative c.dif and is
   not s/p a macroscopically neg [**Last Name (un) **]. It remains unclear with unclear why
   her platelets are dropping.
   >Fever/Hypotension:  After a very thourough evaluation for infection
   the only source has been odontogenic s./p tooth extraction and
   improvement in cervical adenopathy. She remains intermittently
   hypotensive and febrile with persistent diarrhea s/p a macroscopically
   normal colonoscopy (no inclusion bodies for CMV although cultures are
   pending). It remains unclear with her high ferritin if this picture
   could be consistent with Stills disease with possible hemophagocytic
   syndrome (given the fall in platelets). All abx have been stopped
   (Vanco and Zosyn [**11-22**]) and metronidazole [**11-23**]. There is no clear
   lymphadenopathy that is clearly amenable to biopsy at this point.
   - Will cont to discuss with Rheumatology marked increased in ferritin
   over the last 24 hrs. Will need to discuss whether she needs increasing
   steroid dose. Will recheck triglycerides
   - ID following (appreciate input)
   - Cont to stress dose steroids.
   - Ehrlicia and thin-thick smear (neg), histoplasmosis (pend),
   strongyloides (pend).
   -  F/u urine histo Ag (pending).
   > Diarrhea: no obvious source. Will try to control symptoms with
   immodium. Other more unusual causes of secretory diarrhea seem less
   likely. Cont to closely follow electrolytes
   - follow lytes closely.
   > Hypoxemia: increasingly vol overload CXR. Neg PE protocol CT scan
   [**11-18**]). Increasing tachypnea, she has been in bed since her arrival, her
   exam is consistent with atlectasis. This is compounded by her
   hypokalemia and hypophos/mag and mild vol overloaded.
   - Check sputum clx
   - Pulm toilet, OOB to chair,.
   - Optimize electrolytes Mg, K, PO4
   - her coags (both apt and INR are up): ? antii-phospholipid Ab syndrome
   awaiting labs
    Thrombocytopenia: ? hemophagocytic syndrome, medications (Stopped
   Vanco), heparin (Hold heparin, checking HIT)  and PPI
   - Will f/u HIT Ab, holding heparin and changing PPI to H2
   > Coagulopathy: unclear reason to explain aPTT and INR increases. aPL
   work up pending
   - Vit K s/p 3 days
    > HIV: cont HAART, now with CD4 of 451.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: Boots, Stopped Hep SQ
   Stress ulcer: Change to H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to the floor
   Total time spent: 35 minutes

2192-11-23 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ongoing hypokalemia, hypophosphatemia
   - platelets continue to fall, so HIT sent
   - C. diff sent, results pending
   - colonoscopy biopsies preliminarily negative (but will be stained for
   CMV per ID)
   - stopped vanco/zosyn
   - could not get OOB --> chair
   - Rheum concerned about hemophagocytic syndrome given anemia and
   thrombocytopenia
   - ID recommending discussion with rheum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2192-11-21**] 03:58 AM
   Piperacillin - [**2192-11-22**] 04:00 AM
   Vancomycin - [**2192-11-22**] 08:43 AM
   Metronidazole - [**2192-11-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-11-22**] 08:43 AM
   Heparin Sodium (Prophylaxis) - [**2192-11-22**] 12:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-23**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 65 (56 - 103) bpm
   BP: 113/58(72) {95/45(57) - 132/95(87)} mmHg
   RR: 29 (23 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 14 (11 - 27)mmHg
   Total In:
                                                                  5,239 mL
                                                                  1,900 mL
   PO:
                                                                    940 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  4,299 mL
                                                                  1,540 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                  2,550 mL
   Urine:
                                                                  4,630 mL
                                                                  2,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    609 mL
                                                                   -650 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Nad, a/ox3, worried appearing, no murmur, mild crackles but unchanged,
   abd soft, trace LE edema, +conjunctival injection bil, stable.  Moving
   all exts
   Labs / Radiology
   106 K/uL
   8.1 g/dL
   160 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   4 mg/dL
   110 mEq/L
   143 mEq/L
   24.7 %
   14.8 K/uL
        [image002.jpg]
                            [**2192-11-19**]  04:06 AM
                            [**2192-11-19**]  12:07 PM
                            [**2192-11-19**]  08:55 PM
                            [**2192-11-20**]  04:33 AM
                            [**2192-11-20**]  04:25 PM
                            [**2192-11-21**]  03:21 AM
                            [**2192-11-21**]  08:13 PM
                            [**2192-11-22**]  03:16 AM
                            [**2192-11-22**]  04:16 PM
                            [**2192-11-23**]  03:54 AM
   WBC
   17.3
   12.1
   13.3
   18.0
   22.5
   14.8
   Hct
   21.1
   21.1
   21.7
   24.3
   25.8
   24.7
   Plt
   150
   189
   164
   164
   126
   111
   106
   Cr
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   Glucose
   162
   179
   183
   141
   140
   122
   127
   132
   138
   160
   Other labs: PT / PTT / INR:16.6/33.3/1.5, CK / CKMB /
   Troponin-T:147/3/<0.01, ALT / AST:[**12-5**], Alk Phos / T Bili:127/0.3,
   Differential-Neuts:73.0 %, Band:4.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:2.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:633 IU/L, Ca++:6.9 mg/dL, Mg++:1.4 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, now readmitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source.
   # hypotension
 resolved for >72hrs, stable on IV steroids.  Concern
   for sepsis, but SBPs range >80 to 100.  Etiology relative adrenal
   insufficiency vs baseline low bp.
   - prn IVF, keep MAP>60, CVP 8-12
   - recheck lactate
   # fever:  no idenitiable source, +submandibular/jaw LAD, +diarrhea,
   +transaminitis, +tooth abscess
 removed [**11-19**], ?lymphoma, ?Still
   e/o colitis on CT [**11-18**].  Vanco, zosyn, flagyl for pan coverage,
   treating odontogenic abscess and presumptive cdiff.  ID questioning TB
   reactivation.  Underwent colonoscopy [**11-21**], biopsies pending, otherwise
   unremarkable.
   -  ID following
   -  f/u colon biopsies
   -  f/u cxs
   -  DC
ed vanco/zosyn [**11-22**], stop flagyl today as cdiff(-)
   -  continue flagyl until cdiff returns (-)
   -  LN biopsy to be considered
 unsure if lymph nodes have decreased in
   size, pre-empting adequate biopsy yield
   # heme/anemia/coagulopathy: baseline low hct, normocytic anemia.
   Coagulopathy still elevated, overall unclear, but stable.  Dropping
   platelets, unsure if medication effect vs hit.  Have not discontinued
   hep sq and protonix.
   - h2 blocker exchange for ppi
   - dc heparin, start pneumoboots
   - if worsens, heme-onc consult
   - f/u HIT
   # HIV: as above, continue HAART
   # Still's Diease - joint pain, +constitutional symptoms, previously
   tx
ed with prednisone 10mg, mtx for therapy, now on IV steroids.
   Markedly abnormal elevated ferritin (iron:transferring ratio <40%,
   lymphoma vs ra likely cause).
   - hold mtx, hold PO predisone
 on iv hydrocort pending rheum input
   - rheum following
   # Hypothyroid: on levothyroxine, TSH low, nl free T4.
   # malnutrition/electrolytes/diarrhea: etiology unknown, needs
   aggressive K and P repletion.  Immodium.  OOB, PT c/s, SW c/s.
   # Comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition:
   Glycemic Control:  iss
   Lines:
   20 Gauge - [**2192-11-18**] 08:00 AM
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: pneumoboots, concern for hit
   Stress ulcer:  h2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  perhaps call out

2192-11-24 07:36:00 Physician Attending Progress Note
Chief Complaint: Fever and submental mass
   HPI:
   48yoF from [**Country 3310**] HIV - undetectable vl, CD166, hypothyroid, Stills
   Disease mtx and prednisone taper presented with fever, admitted to
   Medicine floor, now transferred to MICU for hypotension and
   tachycardia.
      Pt was in [**Hospital **] clinic [**11-15**], reported fatigue, malaise for past month,
   with low grade fevers, mostly at night with occasional night sweats.
   Five days PTA, developed semi-productive cough, also a tender
   "swelling" under her chin. Was febrile and tachycardic in clinic, no O2
   requirement, admitted directly to CC7.
   Pt diagnosed with HIV [**2174**] after fiance +, no treatment. In [**2187**],
   started on study protocol (Gilead 934 study: Tefavirenz, emtriva,
   tenofovir disoproxil fumarate), treated since at [**Hospital1 19**], +compliance.
   MAC prophylaxis [**12/2187**] (azithromycin), then stopped [**12-13**]. Had
   admission [**Date range (3) 3313**] for hyperthyroidism with subsequent iodine
   ablation. Tested PPD+ [**11/2189**], underwent 9 months of INH treatment.
      She was admitted to the floor but triggered for hypotension and was
   transferred to the MICU for resuscitation. She was empirically covered
   with broad spectrum abx. She received stress dose steroids of HC 50 q6
   but then switched to prednisone 60 mg daily. The leading source to the
   fever has been dental abscess with reaction submental lymphnodes.
   Additional source to infection has been attributed to Still's disease
   given her markedly elevated ferritin. She never required vasopressors
   for hemodynamic support. She is scheduled for tooth extraction on
   Monday. She was intermittently tachypneic but had no chest pain,
   subjective shortness of breath or detectable hypoxia. Micro data has
   remained negative to date. Upon arrival to the floor she was febrile to
   103 and triggerred for RR 40 without subjective shortness of breath.
   She received a total of 3.5l IVF for borderline low SBPs (80s), then
   had a SBP to 65, which prompted a trigger.  ABG was drawn, which showed
   lactate >3, prompting MICU transfer.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2192-11-22**] 04:00 AM
   Vancomycin - [**2192-11-22**] 08:43 AM
   Metronidazole - [**2192-11-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH:
   1.  HIV - HAART, recently CD4 count has been declining. No h/o OIs.
   (diagnosed in [**2174**])
   2.  Still's disease - on prednisone and MTX, followed by Dr. [**Last Name (STitle) 3314**]
    - most recent flare [**10-19**] and was placed on a prednisone taper.
   3.  "yellow fever" during four pregnancies
   4.  hypothyroidism
   5.  chiari 1 malformation
   6.  +PPD rx with INH
   7.  h/o shingles ([**2-/2188**])
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-24**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 69 (56 - 108) bpm
   BP: 124/79(88) {110/45(65) - 132/79(90)} mmHg
   RR: 21 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 3 (-7 - 17)mmHg
   Total In:
                                                                  4,614 mL
                                                                  1,428 mL
   PO:
                                                                    860 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,754 mL
                                                                    948 mL
   Blood products:
   Total out:
                                                                  7,470 mL
                                                                  2,180 mL
   Urine:
                                                                  6,820 mL
                                                                  1,880 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                 -2,856 mL
                                                                   -752 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   103 K/uL
   133 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   4 mg/dL
   107 mEq/L
   141 mEq/L
   24.8 %
   15.1 K/uL
        [image002.jpg]
                            [**2192-11-20**]  04:33 AM
                            [**2192-11-20**]  04:25 PM
                            [**2192-11-21**]  03:21 AM
                            [**2192-11-21**]  08:13 PM
                            [**2192-11-22**]  03:16 AM
                            [**2192-11-22**]  04:16 PM
                            [**2192-11-23**]  03:54 AM
                            [**2192-11-23**]  04:31 PM
                            [**2192-11-24**]  12:15 AM
                            [**2192-11-24**]  03:16 AM
   WBC
   12.1
   13.3
   18.0
   22.5
   14.8
   15.1
   Hct
   21.1
   21.7
   24.3
   25.8
   24.7
   24.8
   Plt
   189
   164
   164
   126
   111
   106
   103
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   Glucose
   141
   140
   122
   127
   132
   138
   160
   130
   136
   133
   Other labs: PT / PTT / INR:14.9/28.6/1.3, CK / CKMB /
   Troponin-T:147/3/<0.01, ALT / AST:[**12-5**], Alk Phos / T Bili:127/0.3,
   Differential-Neuts:73.0 %, Band:4.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:2.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:633 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   48 year old HIV
infected female with recent CD4 count of 166 cells/mm3
   ([**2192-8-10**]) on HAART, h/o thyroid disease; h/o adult Stills disease on
   methotrexate maintenance with steroid taper (on Bactrim prophylaxis);
   is admitted with one week h/o fatigue, malaise; cough non productive;
   NV;.  She has been recurrently hypotensive and febrile without clear
   source. She conts to have marked diarrhea despite negative c.dif and is
   not s/p a macroscopically neg [**Last Name (un) **]. It remains unclear with unclear why
   her platelets are dropping.
   >Fever/Hypotension:  After a very thourough evaluation for infection
   the only source has been odontogenic s./p tooth extraction and
   improvement in cervical adenopathy. She remains intermittently
   hypotensive and febrile with persistent diarrhea s/p a macroscopically
   normal colonoscopy (no inclusion bodies for CMV although cultures are
   pending). It remains unclear with her high ferritin if this picture
   could be consistent with Stills disease with possible hemophagocytic
   syndrome (given the fall in platelets). All abx have been stopped
   (Vanco and Zosyn [**11-22**]) and metronidazole [**11-23**]. There is no clear
   lymphadenopathy that is clearly amenable to biopsy at this point.
   - Will cont to discuss with Rheumatology marked increased in ferritin
   over the last 24 hrs. Will need to discuss whether she needs increasing
   steroid dose. Will recheck triglycerides
   - ID following (appreciate input)
   - Cont to stress dose steroids.
   - Ehrlicia and thin-thick smear (neg), histoplasmosis (pend),
   strongyloides (pend).
   -  F/u urine histo Ag (pending).
   > Diarrhea: no obvious source. Will try to control symptoms with
   immodium. Other more unusual causes of secretory diarrhea seem less
   likely. Cont to closely follow electrolytes
   - follow lytes closely.
   > Hypoxemia: increasingly vol overload CXR. Neg PE protocol CT scan
   [**11-18**]). Increasing tachypnea, she has been in bed since her arrival, her
   exam is consistent with atlectasis. This is compounded by her
   hypokalemia and hypophos/mag and mild vol overloaded.
   - Check sputum clx
   - Pulm toilet, OOB to chair,.
   - Optimize electrolytes Mg, K, PO4
   - her coags (both apt and INR are up): ? antii-phospholipid Ab syndrome
   awaiting labs
    Thrombocytopenia: ? hemophagocytic syndrome, medications (Stopped
   Vanco), heparin (Hold heparin, checking HIT)  and PPI
   - Will f/u HIT Ab, holding heparin and changing PPI to H2
   > Coagulopathy: unclear reason to explain aPTT and INR increases. aPL
   work up pending
   - Vit K s/p 3 days
    > HIV: cont HAART, now with CD4 of 451.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2192-11-24 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Started immodium
   Cxs (-)
   OOB for , felt dizzy, placed back in bed
   Potassium, magnesium, phosphate all markedly depete, with repletion
   UOP elevated - sent off urine lytes and osms, assess for siadh (nl
   sodium)
   Rheum recs: send ferritin, consider change to PO steroids, prednisone
   40mg qd
   ID recs: microsporidia in stool
   Kept for electrolyte issues, increased UOP, weakness, and tachypnea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2192-11-22**] 04:00 AM
   Vancomycin - [**2192-11-22**] 08:43 AM
   Metronidazole - [**2192-11-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-11-24**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 69 (56 - 108) bpm
   BP: 124/79(88) {110/45(65) - 132/79(90)} mmHg
   RR: 21 (19 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 3 (-7 - 17)mmHg
   Total In:
                                                                  4,614 mL
                                                                  1,466 mL
   PO:
                                                                    860 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  3,754 mL
                                                                    986 mL
   Blood products:
   Total out:
                                                                  7,470 mL
                                                                  2,180 mL
   Urine:
                                                                  6,820 mL
                                                                  1,880 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                 -2,856 mL
                                                                   -714 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Nad, a/ox3, slow affect continues mild scleral icterus with conj
   injection, lungs clear with decreased breath sounds at bases, trace LE
   edema, moving all exts
   Labs / Radiology
   103 K/uL
   8.2 g/dL
   133 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   4 mg/dL
   107 mEq/L
   141 mEq/L
   24.8 %
   15.1 K/uL
        [image002.jpg]
                            [**2192-11-20**]  04:33 AM
                            [**2192-11-20**]  04:25 PM
                            [**2192-11-21**]  03:21 AM
                            [**2192-11-21**]  08:13 PM
                            [**2192-11-22**]  03:16 AM
                            [**2192-11-22**]  04:16 PM
                            [**2192-11-23**]  03:54 AM
                            [**2192-11-23**]  04:31 PM
                            [**2192-11-24**]  12:15 AM
                            [**2192-11-24**]  03:16 AM
   WBC
   12.1
   13.3
   18.0
   22.5
   14.8
   15.1
   Hct
   21.1
   21.7
   24.3
   25.8
   24.7
   24.8
   Plt
   189
   164
   164
   126
   111
   106
   103
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   Glucose
   141
   140
   122
   127
   132
   138
   160
   130
   136
   133
   Other labs: PT / PTT / INR:14.9/28.6/1.3, CK / CKMB /
   Troponin-T:147/3/<0.01, ALT / AST:[**12-5**], Alk Phos / T Bili:127/0.3,
   Differential-Neuts:73.0 %, Band:4.0 %, Lymph:9.0 %, Mono:6.0 %, Eos:2.0
   %, Fibrinogen:459 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.2 g/dL,
   LDH:633 IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   No new cx data, CMV stain (-) from colonic biopsy
   Assessment and Plan
   48yoF from [**Country 3310**] hx HIV, hypothyroid, Stills Disease, presents with
   malaise and fevers, now readmitted to MICU with fever, hypotension, and
   tachycardia, concern for sepsis with unknown source.
   1. hypotension
 resolved on IV steroids since [**11-18**].  Concern for
   sepsis, but SBPs range >95 to 100.  Etiology relative adrenal
   insufficiency vs baseline low bp.
   - prn IVF, keep MAP>60, CVP 8-12
   - trend lactate
   2. fever - no idenitiable source, +submandibular/jaw LAD, +diarrhea,
   +transaminitis, +tooth abscess
 removed [**11-19**], ?lymphoma, ?Still
   e/o colitis on CT [**11-18**], cmv stain from colon (-).  Vanco, zosyn, flagyl
   7d course now complete, now off all abx as of [**11-23**].
   - f/u cxs
   - LN biopsy to be considered
 unsure if lymph nodes have decreased in
   size, pre-empting adequate biopsy yield
   3. heme/anemia/coagulopathy: baseline low hct, normocytic anemia.
   Coagulopathy still elevated, overall unclear, but stable.  Dropping
   platelets, unsure if medication effect vs hit, but HIT (-), now
   stabilizing.  Have not discontinued hep sq and protonix.
   - h2 blocker, pneumoboots
   - trend, if worsens, heme-onc consult
   - f/u HIT
   4. HIV: as above, continue HAART
   5. Still's Diease - joint pain, +constitutional symptoms, previously
   tx
ed with prednisone 10mg, mtx for therapy, now on IV steroids.
   Markedly abnormal elevated ferritin (iron:transferring ratio <40%,
   lymphoma vs ra likely cause).
   - hold mtx, hold PO predisone
 on iv hydrocort pending rheum input
   - rheum following
   - f/u ferritin with fractionation
   5. elevated UOP - >6L, urine na 110, urine osms > serum osms, na nl,
   not suggestive of siadh or diabetes insipidus
   - trend UOP
   6. hypothyroid: on levothyroxine, TSH low, nl free T4.
   7.  malnutrition/electrolytes/diarrhea: etiology unknown, needs
   aggressive K and P repletion.  Immodium.  OOB, PT c/s, SW c/s.
   8. comm: [**Name (NI) 3316**] (Son) [**Telephone/Fax (1) 3317**]
   ICU Care
   Nutrition: po feeds
   Glycemic Control: iss
   Lines:
   Multi Lumen - [**2192-11-18**] 09:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: h2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to floor today